US07812047B2
c) rac-N1-Ethyl-N1-phenyl-propane-1,2,3-triamine
To a solution of rac-(2,3-diazido-propyl)-ethyl-phenyl-amine (0.245 g, 1 mmol) in methanol (5 ml) was added platinum(IV)-oxide (50 mg) and the mixture was hydrogenated at atmospheric pressure overnight. The catalyst was removed by filtration over celite and the filtrate was evaporated. The residue was purified by chromatography (column: Isolute® Flash-NH2 from Separtis; eluent: ethyl acetate) to yield a light yellow liquid (0.19 g, 98%); MS (ISP): 194.1 ((M+H)+).

reactant | rac-(2,3-diazido-propyl)-ethyl-phenyl-amine | 1 mmol, 0.245 g | N(=[N+]=[N-])C(CN(C1=CC=CC=C1)CC)CN=[N+]=[N-] | C11H15N7
solvent | methanol | 5 ml | CO | CH4O
catalyst | platinum(IV)-oxide | 50 mg | [Pt](=O)=O
product | rac-N1-Ethyl-N1-phenyl-propane-1,2,3-triamine | 0.19 g, 98% | C(C)N(CC(CN)N)C1=CC=CC=C1 | C11H19N3
